US09108977B2
To a solution of 210 mg of 2,4,5-trifluorobenzonitrile and 500 mg of t-butyl 5-cyclopropyl-4-(2-hydroxyethyl)-3,4,6,7,9,10-hexahydro[1,4]oxazino[2,3-h][3]benzazepine-8(2H)-carboxylate in 15 ml of THF was added portionwise 150 mg of potassium t-butoxide, followed by stirring at −30° C. for 2 hours. Further, to the reaction mixture was added 0.15 ml of MeOH and then 150 mg of potassium t-butoxide was added portionwise thereto, followed by elevating the temperature to −10° C. and stirring for 15 hours. Further, to the reaction mixture were added 0.15 ml of MeOH, and then 150 mg of potassium t-butoxide was added portionwise thereto, followed by elevating the temperature to 0° C. and stirring for additional 14 hours. The reaction mixture was diluted with ethyl acetate, washed with water and saturated brine, dried over anhydrous magnesium sulfate, and then filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel chromatography (elution solvent: HEX-EtOAc)) to obtain 726 mg of t-butyl 4-[2-(4-cyano-2-fluoro-5-methoxyphenoxy)ethyl]-5-cyclopropyl-3,4,6,7,9,10-hexahydro[1,4]oxazino[2,3-h][3]benzazepine-8(2H)-carboxylate as a colorless viscous substance.

reactant | 2,4,5-trifluorobenzonitrile | 210 mg | FC1=C(C#N)C=C(C(=C1)F)F | C7H2F3N
reactant | t-butyl 5-cyclopropyl-4-(2-hydroxyethyl)-3,4,6,7,9,10-hexahydro[1,4]oxazino[2,3-h][3]benzazepine-8(2H)-carboxylate | 500 mg | C1(CC1)C1=C2C(=CC=3CCN(CCC31)C(=O)OC(C)(C)C)OCCN2CCO | C22H32N2O4
reactant | potassium t-butoxide | 150 mg | CC(C)([O-])C.[K+]
reactant | MeOH | 0.15 ml | CO | CH4O
reactant | potassium t-butoxide | 150 mg | CC(C)([O-])C.[K+]
reactant | MeOH | 0.15 ml | CO | CH4O
reactant | potassium t-butoxide | 150 mg | CC(C)([O-])C.[K+]
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | t-butyl 4-[2-(4-cyano-2-fluoro-5-methoxyphenoxy)ethyl]-5-cyclopropyl-3,4,6,7,9,10-hexahydro[1,4]oxazino[2,3-h][3]benzazepine-8(2H)-carboxylate | 726 mg | C(#N)C1=CC(=C(OCCN2CCOC=3C2=C(C2=C(CCN(CC2)C(=O)OC(C)(C)C)C3)C3CC3)C=C1OC)F | C30H36FN3O5
